* ==================================================================
* tb_sar_logic_functional -- exhaustive functional verification of
* the synchronous SAR controller (issue #11).
*
* GENERATED by design/sar-logic/gen_sar_logic.py -- do not edit.
*
* Two independent closed loops run in the same deck: `se` in
* single-ended mode and `df` in differential mode (DR-0006's two
* input modes, which switch a DIFFERENT NUMBER OF SIDES per trial and
* therefore need separate coverage, not one run with a flag flipped).
*
* Each loop converts 1024 times. The input ramps by exactly one
* LSB of its own mode per conversion, offset half an LSB so every
* sample lands mid-code, so the run exercises every one of the 1024
* output codes exactly once -- i.e. every possible bit-trial decision
* sequence, since a plain-binary SAR with no redundancy (DR-0008) has
* exactly one decision sequence per code.
*
* All 1024 conversions are checked with two scalars per mode, not
* 1024 assertions: an error signal (converted code minus the
* closed-form ideal code of the held sample) is evaluated during every
* drdy window and its MAX and MIN over the whole run are measured. A
* single wrong conversion anywhere moves one of them by >= 1 LSB.
* ==================================================================

* V_REF is ratiometric to the supply here: the ratified spec (README
* note [c]) makes V_REF <= V_DD a hard condition, so a fixed 3.3 V
* reference is not legal at the 2.97 V corner. Taking V_REF = V_DD
* keeps the deck legal at every point of the supply axis; the code
* check is ratiometric too, so it is unaffected.
.param vref={vdd_val}
.param vcm={vdd_val/2}
.param vth={vdd_val/2}
.param lsbse={vdd_val/1024}
.param lsbdf={vdd_val/512}
.model sarl_sw sw(vt={vdd_val/2} vh=0 ron=1 roff=1e12)

vclk clk 0 pulse(0 {vdd_val} 0 100p 100p 31.25n 62.5n)

* ---- loop se ----
vsestart se_start 0 dc 0
vsemode se_mode 0 dc 0
xse clk se_start se_mode se_cmpo se_samp se_drdy se_c9 se_c8 se_c7 se_c6
+ se_c5 se_c4 se_c3 se_c2 se_c1 se_c0 se_rel_n_256p se_sel_hi_n_256p
+ se_sel_lo_n_256p se_rel_n_128p se_sel_hi_n_128p se_sel_lo_n_128p
+ se_rel_n_64p se_sel_hi_n_64p se_sel_lo_n_64p se_rel_n_32p
+ se_sel_hi_n_32p se_sel_lo_n_32p se_rel_n_16p se_sel_hi_n_16p
+ se_sel_lo_n_16p se_rel_n_8p se_sel_hi_n_8p se_sel_lo_n_8p se_rel_n_4p
+ se_sel_hi_n_4p se_sel_lo_n_4p se_rel_n_2p se_sel_hi_n_2p se_sel_lo_n_2p
+ se_rel_n_1p se_sel_hi_n_1p se_sel_lo_n_1p se_rel_n_256n se_sel_hi_n_256n
+ se_sel_lo_n_256n se_rel_n_128n se_sel_hi_n_128n se_sel_lo_n_128n
+ se_rel_n_64n se_sel_hi_n_64n se_sel_lo_n_64n se_rel_n_32n
+ se_sel_hi_n_32n se_sel_lo_n_32n se_rel_n_16n se_sel_hi_n_16n
+ se_sel_lo_n_16n se_rel_n_8n se_sel_hi_n_8n se_sel_lo_n_8n se_rel_n_4n
+ se_sel_hi_n_4n se_sel_lo_n_4n se_rel_n_2n se_sel_hi_n_2n se_sel_lo_n_2n
+ se_rel_n_1n se_sel_hi_n_1n se_sel_lo_n_1n sar_ctrl_a
ssep se_vinp se_shp se_samp 0 sarl_sw
ssen se_vinn se_shn se_samp 0 sarl_sw
csep se_shp 0 1p
csen se_shn 0 1p
rsesd se_samp se_sampd 10k
csesd se_sampd 0 1p
ssexp se_vinp se_shxp se_sampd 0 sarl_sw
ssexn se_vinn se_shxn se_sampd 0 sarl_sw
csexp se_shxp 0 1p
csexn se_shxn 0 1p
bsetopp se_topip 0 V = v(se_shp)+(1.0/512)*(
+ 256*((v(se_rel_n_256p)*vcm+v(se_sel_hi_n_256p)*vref)/vdd_val-vcm) + 128*((v(se_rel_n_128p)*vcm+v(se_sel_hi_n_128p)*vref)/vdd_val-vcm) + 64*((v(se_rel_n_64p)*vcm+v(se_sel_hi_n_64p)*vref)/vdd_val-vcm) + 32*((v(se_rel_n_32p)*vcm+v(se_sel_hi_n_32p)*vref)/vdd_val-vcm) + 16*((v(se_rel_n_16p)*vcm+v(se_sel_hi_n_16p)*vref)/vdd_val-vcm) + 8*((v(se_rel_n_8p)*vcm+v(se_sel_hi_n_8p)*vref)/vdd_val-vcm) + 4*((v(se_rel_n_4p)*vcm+v(se_sel_hi_n_4p)*vref)/vdd_val-vcm) + 2*((v(se_rel_n_2p)*vcm+v(se_sel_hi_n_2p)*vref)/vdd_val-vcm) + 1*((v(se_rel_n_1p)*vcm+v(se_sel_hi_n_1p)*vref)/vdd_val-vcm) )
bsetopn se_topin 0 V = v(se_shn)+(1.0/512)*(
+ 256*((v(se_rel_n_256n)*vcm+v(se_sel_hi_n_256n)*vref)/vdd_val-vcm) + 128*((v(se_rel_n_128n)*vcm+v(se_sel_hi_n_128n)*vref)/vdd_val-vcm) + 64*((v(se_rel_n_64n)*vcm+v(se_sel_hi_n_64n)*vref)/vdd_val-vcm) + 32*((v(se_rel_n_32n)*vcm+v(se_sel_hi_n_32n)*vref)/vdd_val-vcm) + 16*((v(se_rel_n_16n)*vcm+v(se_sel_hi_n_16n)*vref)/vdd_val-vcm) + 8*((v(se_rel_n_8n)*vcm+v(se_sel_hi_n_8n)*vref)/vdd_val-vcm) + 4*((v(se_rel_n_4n)*vcm+v(se_sel_hi_n_4n)*vref)/vdd_val-vcm) + 2*((v(se_rel_n_2n)*vcm+v(se_sel_hi_n_2n)*vref)/vdd_val-vcm) + 1*((v(se_rel_n_1n)*vcm+v(se_sel_hi_n_1n)*vref)/vdd_val-vcm) )
rsep se_topip se_topp 1k
rsen se_topin se_topn 1k
csetp se_topp 0 2.56p
csetn se_topn 0 2.56p
bsecmp se_cmpo 0 V = v(se_topp) > v(se_topn) ? vdd_val : 0
bsecode se_code 0 V = 
+ (512)*(v(se_c9)>vth ? 1 : 0) + (256)*(v(se_c8)>vth ? 1 : 0) + (128)*(v(se_c7)>vth ? 1 : 0) + (64)*(v(se_c6)>vth ? 1 : 0) + (32)*(v(se_c5)>vth ? 1 : 0) + (16)*(v(se_c4)>vth ? 1 : 0) + (8)*(v(se_c3)>vth ? 1 : 0) + (4)*(v(se_c2)>vth ? 1 : 0) + (2)*(v(se_c1)>vth ? 1 : 0) + (1)*(v(se_c0)>vth ? 1 : 0)
bseconf se_conf 0 V = (
+ abs(v(se_rel_n_256p)+v(se_sel_hi_n_256p)+v(se_sel_lo_n_256p)-vdd_val) + abs(v(se_rel_n_128p)+v(se_sel_hi_n_128p)+v(se_sel_lo_n_128p)-vdd_val) + abs(v(se_rel_n_64p)+v(se_sel_hi_n_64p)+v(se_sel_lo_n_64p)-vdd_val) + abs(v(se_rel_n_32p)+v(se_sel_hi_n_32p)+v(se_sel_lo_n_32p)-vdd_val) + abs(v(se_rel_n_16p)+v(se_sel_hi_n_16p)+v(se_sel_lo_n_16p)-vdd_val) + abs(v(se_rel_n_8p)+v(se_sel_hi_n_8p)+v(se_sel_lo_n_8p)-vdd_val) + abs(v(se_rel_n_4p)+v(se_sel_hi_n_4p)+v(se_sel_lo_n_4p)-vdd_val) + abs(v(se_rel_n_2p)+v(se_sel_hi_n_2p)+v(se_sel_lo_n_2p)-vdd_val) + abs(v(se_rel_n_1p)+v(se_sel_hi_n_1p)+v(se_sel_lo_n_1p)-vdd_val) + abs(v(se_rel_n_256n)+v(se_sel_hi_n_256n)+v(se_sel_lo_n_256n)-vdd_val) + abs(v(se_rel_n_128n)+v(se_sel_hi_n_128n)+v(se_sel_lo_n_128n)-vdd_val) + abs(v(se_rel_n_64n)+v(se_sel_hi_n_64n)+v(se_sel_lo_n_64n)-vdd_val) + abs(v(se_rel_n_32n)+v(se_sel_hi_n_32n)+v(se_sel_lo_n_32n)-vdd_val) + abs(v(se_rel_n_16n)+v(se_sel_hi_n_16n)+v(se_sel_lo_n_16n)-vdd_val) + abs(v(se_rel_n_8n)+v(se_sel_hi_n_8n)+v(se_sel_lo_n_8n)-vdd_val) + abs(v(se_rel_n_4n)+v(se_sel_hi_n_4n)+v(se_sel_lo_n_4n)-vdd_val) + abs(v(se_rel_n_2n)+v(se_sel_hi_n_2n)+v(se_sel_lo_n_2n)-vdd_val) + abs(v(se_rel_n_1n)+v(se_sel_hi_n_1n)+v(se_sel_lo_n_1n)-vdd_val))/vdd_val
bsenside se_nside 0 V = (
+ v(se_sel_hi_n_256n)+v(se_sel_lo_n_256n) + v(se_sel_hi_n_128n)+v(se_sel_lo_n_128n) + v(se_sel_hi_n_64n)+v(se_sel_lo_n_64n) + v(se_sel_hi_n_32n)+v(se_sel_lo_n_32n) + v(se_sel_hi_n_16n)+v(se_sel_lo_n_16n) + v(se_sel_hi_n_8n)+v(se_sel_lo_n_8n) + v(se_sel_hi_n_4n)+v(se_sel_lo_n_4n) + v(se_sel_hi_n_2n)+v(se_sel_lo_n_2n) + v(se_sel_hi_n_1n)+v(se_sel_lo_n_1n))/vdd_val
* single-ended: the p side samples V_in over 0..V_REF, the n side is
* pinned at V_cm (DR-0006). Full scale = V_REF, LSB = V_REF/1024.
vsein se_vinp 0 pwl(0 {lsbse/2} 1024000.0n {vref+lsbse/2})
vsecm se_vinn 0 dc {vcm}
bseexp se_exp 0 V = min(max(floor(v(se_shxp)/lsbse),0),1023)
bseerr se_err 0 V = v(se_drdy)>vth ? v(se_code)-v(se_exp) : 0

* ---- loop df ----
vdfstart df_start 0 dc 0
vdfmode df_mode 0 dc {vdd_val}
xdf clk df_start df_mode df_cmpo df_samp df_drdy df_c9 df_c8 df_c7 df_c6
+ df_c5 df_c4 df_c3 df_c2 df_c1 df_c0 df_rel_n_256p df_sel_hi_n_256p
+ df_sel_lo_n_256p df_rel_n_128p df_sel_hi_n_128p df_sel_lo_n_128p
+ df_rel_n_64p df_sel_hi_n_64p df_sel_lo_n_64p df_rel_n_32p
+ df_sel_hi_n_32p df_sel_lo_n_32p df_rel_n_16p df_sel_hi_n_16p
+ df_sel_lo_n_16p df_rel_n_8p df_sel_hi_n_8p df_sel_lo_n_8p df_rel_n_4p
+ df_sel_hi_n_4p df_sel_lo_n_4p df_rel_n_2p df_sel_hi_n_2p df_sel_lo_n_2p
+ df_rel_n_1p df_sel_hi_n_1p df_sel_lo_n_1p df_rel_n_256n df_sel_hi_n_256n
+ df_sel_lo_n_256n df_rel_n_128n df_sel_hi_n_128n df_sel_lo_n_128n
+ df_rel_n_64n df_sel_hi_n_64n df_sel_lo_n_64n df_rel_n_32n
+ df_sel_hi_n_32n df_sel_lo_n_32n df_rel_n_16n df_sel_hi_n_16n
+ df_sel_lo_n_16n df_rel_n_8n df_sel_hi_n_8n df_sel_lo_n_8n df_rel_n_4n
+ df_sel_hi_n_4n df_sel_lo_n_4n df_rel_n_2n df_sel_hi_n_2n df_sel_lo_n_2n
+ df_rel_n_1n df_sel_hi_n_1n df_sel_lo_n_1n sar_ctrl_a
sdfp df_vinp df_shp df_samp 0 sarl_sw
sdfn df_vinn df_shn df_samp 0 sarl_sw
cdfp df_shp 0 1p
cdfn df_shn 0 1p
rdfsd df_samp df_sampd 10k
cdfsd df_sampd 0 1p
sdfxp df_vinp df_shxp df_sampd 0 sarl_sw
sdfxn df_vinn df_shxn df_sampd 0 sarl_sw
cdfxp df_shxp 0 1p
cdfxn df_shxn 0 1p
bdftopp df_topip 0 V = v(df_shp)+(1.0/512)*(
+ 256*((v(df_rel_n_256p)*vcm+v(df_sel_hi_n_256p)*vref)/vdd_val-vcm) + 128*((v(df_rel_n_128p)*vcm+v(df_sel_hi_n_128p)*vref)/vdd_val-vcm) + 64*((v(df_rel_n_64p)*vcm+v(df_sel_hi_n_64p)*vref)/vdd_val-vcm) + 32*((v(df_rel_n_32p)*vcm+v(df_sel_hi_n_32p)*vref)/vdd_val-vcm) + 16*((v(df_rel_n_16p)*vcm+v(df_sel_hi_n_16p)*vref)/vdd_val-vcm) + 8*((v(df_rel_n_8p)*vcm+v(df_sel_hi_n_8p)*vref)/vdd_val-vcm) + 4*((v(df_rel_n_4p)*vcm+v(df_sel_hi_n_4p)*vref)/vdd_val-vcm) + 2*((v(df_rel_n_2p)*vcm+v(df_sel_hi_n_2p)*vref)/vdd_val-vcm) + 1*((v(df_rel_n_1p)*vcm+v(df_sel_hi_n_1p)*vref)/vdd_val-vcm) )
bdftopn df_topin 0 V = v(df_shn)+(1.0/512)*(
+ 256*((v(df_rel_n_256n)*vcm+v(df_sel_hi_n_256n)*vref)/vdd_val-vcm) + 128*((v(df_rel_n_128n)*vcm+v(df_sel_hi_n_128n)*vref)/vdd_val-vcm) + 64*((v(df_rel_n_64n)*vcm+v(df_sel_hi_n_64n)*vref)/vdd_val-vcm) + 32*((v(df_rel_n_32n)*vcm+v(df_sel_hi_n_32n)*vref)/vdd_val-vcm) + 16*((v(df_rel_n_16n)*vcm+v(df_sel_hi_n_16n)*vref)/vdd_val-vcm) + 8*((v(df_rel_n_8n)*vcm+v(df_sel_hi_n_8n)*vref)/vdd_val-vcm) + 4*((v(df_rel_n_4n)*vcm+v(df_sel_hi_n_4n)*vref)/vdd_val-vcm) + 2*((v(df_rel_n_2n)*vcm+v(df_sel_hi_n_2n)*vref)/vdd_val-vcm) + 1*((v(df_rel_n_1n)*vcm+v(df_sel_hi_n_1n)*vref)/vdd_val-vcm) )
rdfp df_topip df_topp 1k
rdfn df_topin df_topn 1k
cdftp df_topp 0 2.56p
cdftn df_topn 0 2.56p
bdfcmp df_cmpo 0 V = v(df_topp) > v(df_topn) ? vdd_val : 0
bdfcode df_code 0 V = 
+ (512)*(v(df_c9)>vth ? 1 : 0) + (256)*(v(df_c8)>vth ? 1 : 0) + (128)*(v(df_c7)>vth ? 1 : 0) + (64)*(v(df_c6)>vth ? 1 : 0) + (32)*(v(df_c5)>vth ? 1 : 0) + (16)*(v(df_c4)>vth ? 1 : 0) + (8)*(v(df_c3)>vth ? 1 : 0) + (4)*(v(df_c2)>vth ? 1 : 0) + (2)*(v(df_c1)>vth ? 1 : 0) + (1)*(v(df_c0)>vth ? 1 : 0)
bdfconf df_conf 0 V = (
+ abs(v(df_rel_n_256p)+v(df_sel_hi_n_256p)+v(df_sel_lo_n_256p)-vdd_val) + abs(v(df_rel_n_128p)+v(df_sel_hi_n_128p)+v(df_sel_lo_n_128p)-vdd_val) + abs(v(df_rel_n_64p)+v(df_sel_hi_n_64p)+v(df_sel_lo_n_64p)-vdd_val) + abs(v(df_rel_n_32p)+v(df_sel_hi_n_32p)+v(df_sel_lo_n_32p)-vdd_val) + abs(v(df_rel_n_16p)+v(df_sel_hi_n_16p)+v(df_sel_lo_n_16p)-vdd_val) + abs(v(df_rel_n_8p)+v(df_sel_hi_n_8p)+v(df_sel_lo_n_8p)-vdd_val) + abs(v(df_rel_n_4p)+v(df_sel_hi_n_4p)+v(df_sel_lo_n_4p)-vdd_val) + abs(v(df_rel_n_2p)+v(df_sel_hi_n_2p)+v(df_sel_lo_n_2p)-vdd_val) + abs(v(df_rel_n_1p)+v(df_sel_hi_n_1p)+v(df_sel_lo_n_1p)-vdd_val) + abs(v(df_rel_n_256n)+v(df_sel_hi_n_256n)+v(df_sel_lo_n_256n)-vdd_val) + abs(v(df_rel_n_128n)+v(df_sel_hi_n_128n)+v(df_sel_lo_n_128n)-vdd_val) + abs(v(df_rel_n_64n)+v(df_sel_hi_n_64n)+v(df_sel_lo_n_64n)-vdd_val) + abs(v(df_rel_n_32n)+v(df_sel_hi_n_32n)+v(df_sel_lo_n_32n)-vdd_val) + abs(v(df_rel_n_16n)+v(df_sel_hi_n_16n)+v(df_sel_lo_n_16n)-vdd_val) + abs(v(df_rel_n_8n)+v(df_sel_hi_n_8n)+v(df_sel_lo_n_8n)-vdd_val) + abs(v(df_rel_n_4n)+v(df_sel_hi_n_4n)+v(df_sel_lo_n_4n)-vdd_val) + abs(v(df_rel_n_2n)+v(df_sel_hi_n_2n)+v(df_sel_lo_n_2n)-vdd_val) + abs(v(df_rel_n_1n)+v(df_sel_hi_n_1n)+v(df_sel_lo_n_1n)-vdd_val))/vdd_val
bdfnside df_nside 0 V = (
+ v(df_sel_hi_n_256n)+v(df_sel_lo_n_256n) + v(df_sel_hi_n_128n)+v(df_sel_lo_n_128n) + v(df_sel_hi_n_64n)+v(df_sel_lo_n_64n) + v(df_sel_hi_n_32n)+v(df_sel_lo_n_32n) + v(df_sel_hi_n_16n)+v(df_sel_lo_n_16n) + v(df_sel_hi_n_8n)+v(df_sel_lo_n_8n) + v(df_sel_hi_n_4n)+v(df_sel_lo_n_4n) + v(df_sel_hi_n_2n)+v(df_sel_lo_n_2n) + v(df_sel_hi_n_1n)+v(df_sel_lo_n_1n))/vdd_val
* differential: both pins swing +-V_REF/2 about V_cm, so the
* differential input covers +-V_REF. Full scale = 2*V_REF,
* LSB = V_REF/512, mid-scale code 512 at zero differential input.
vdfp df_vinp 0 pwl(0 {vcm-vref/2+lsbdf/4} 1024000.0n {vcm+vref/2+lsbdf/4})
vdfn df_vinn 0 pwl(0 {vcm+vref/2-lsbdf/4} 1024000.0n {vcm-vref/2-lsbdf/4})
bdfexp df_exp 0 V = min(max(512+floor((v(df_shxp)-v(df_shxn))/lsbdf),0),1023)
bdferr df_err 0 V = v(df_drdy)>vth ? v(df_code)-v(df_exp) : 0

* ------------------------------------------------------------------
* sar_ctrl.spice -- synchronous SAR control logic, rung-1 abstraction
*
* GENERATED by design/sar-logic/gen_sar_logic.py -- do not edit.
*
* Ideal XSPICE event-driven digital primitives (digital.cm: d_dff,
* d_and, d_or, d_inverter) plus adc_bridge/dac_bridge at the analog
* boundary. This is rung 1 of the fidelity ladder in DR-0009: it fixes
* the SEQUENCING and the SWITCH DECODE, and deliberately says nothing
* about gf180mcu gate delay (rung 3 / sim/sar-logic-cell-delay/ owns
* that).
*
* Conversion, M = 16 clocks (DR-0003):
*   ph0..ph3   sample   (samp asserted; every bottom plate at Vcm)
*   ph4        trial 1  free MSB -- no array switching at all, the
*                       comparator decides the sign of the sampled
*                       residue (DR-0006 top-plate sampling)
*   ph5..ph13  trials 2..10, weights 256,128,...,1 engaged in turn
*   ph14       output register loads the 10 decisions
*   ph15       drdy asserted; array released back to Vcm
*
* Switch decode per weight w and side s, from the slice's own engage
* flag `eng` and direction bit `dir` (= the decision of the PREVIOUS
* trial, which is also that trial's output bit):
*   rel = !eng                     bottom plate parked at Vcm
*   p-side:  hi = eng & !dir       -> V_REF      lo = eng & dir  -> GND
*   n-side:  hi = eng &  dir       -> V_REF      lo = eng & !dir -> GND
*   n-side is additionally gated by `mode` (1 = differential): in
*   single-ended mode every n-side cell stays released to Vcm for the
*   whole conversion, per DR-0006 -- driving it too would double every
*   step and cost a bit of resolution.
*
* Sign convention: cmp = 1 when top_p > top_n. dir = 1 therefore means
* 'residue positive, subtract this weight', i.e. p-side down / n-side
* up, which is the `p-side lo` / `n-side hi` decode above.
* ------------------------------------------------------------------

* --- ideal digital primitives -------------------------------------
.model sarl_dff d_dff(clk_delay=0.5n set_delay=0.5n
+ reset_delay=0.5n ic=0 rise_delay=0.5n fall_delay=0.5n)
.model sarl_dff1 d_dff(clk_delay=0.5n set_delay=0.5n
+ reset_delay=0.5n ic=1 rise_delay=0.5n fall_delay=0.5n)
.model sarl_and d_and(rise_delay=0.2n fall_delay=0.2n input_load=0)
.model sarl_or d_or(rise_delay=0.2n fall_delay=0.2n input_load=0)
.model sarl_inv d_inverter(rise_delay=0.2n fall_delay=0.2n
+ input_load=0)

* --- enabled bit register -----------------------------------------
* Captures `d` on the clock edge that ENDS the phase in which `en` is
* asserted, and holds otherwise. Written as an explicit D-mux rather
* than a gated clock: gating the clock with a phase signal that itself
* changes one gate delay after the clock edge creates a spurious
* rising edge on the gated clock, which is a real bug in a real
* implementation, not just in this model.
.subckt sar_bitreg clk d en q qb
a_inv en enb sarl_inv
a_sel [en d] dsel sarl_and
a_hold [enb q] dhold sarl_and
a_mux [dsel dhold] dnext sarl_or
a_ff dnext clk NULL NULL q qb sarl_dff
.ends sar_bitreg

* --- one bit slice: engage flag + direction bit + switch decode -----
* `arm`     one-hot phase pulse of the trial BEFORE this slice's own
*           trial: the slice engages on the edge entering its trial,
*           and the direction bit captures the decision made during
*           `arm` (which is also this bit position's output bit).
* `endconv` forces the engage flag low on the edge leaving the last
*           trial, releasing the whole array back to Vcm for the next
*           sample phase.
.subckt sar_slice clk cmp mode arm endconv dir dirb
+ rel_p hi_p lo_p rel_n hi_n lo_n
a_set [arm eng] eng_set sarl_or
a_ninv endconv nend sarl_inv
a_keep [eng_set nend] eng_d sarl_and
a_ff eng_d clk NULL NULL eng engb sarl_dff
xdir clk cmp arm dir dirb sar_bitreg
* p side: always driven
a_relp eng rel_p sarl_inv
a_hip [eng dirb] hi_p sarl_and
a_lop [eng dir] lo_p sarl_and
* n side: driven only in differential mode (DR-0006)
a_engn [eng mode] engn sarl_and
a_reln engn rel_n sarl_inv
a_hin [engn dir] hi_n sarl_and
a_lon [engn dirb] lo_n sarl_and
.ends sar_slice

* --- 16-phase one-hot sequencer ------------------------------------
* A one-hot ring, seeded by ph15's ic=1 so the very first clock edge
* enters ph0 (sample) with exactly one token in the ring. `start`
* forces a synchronous restart: it sets stage 0 and clears every other
* stage on the same edge, so an asserted `start` cannot inject a
* SECOND token alongside the circulating one.
.subckt sar_seq clk start ph0 ph1 ph2 ph3 ph4 ph5 ph6 ph7 ph8 ph9 ph10 ph11 ph12 ph13 ph14 ph15
a_nstart start nstart sarl_inv
a_d0 [ph15 start] d0 sarl_or
a_ff0 d0 clk NULL NULL ph0 ph0b sarl_dff
a_d1 [ph0 nstart] d1 sarl_and
a_ff1 d1 clk NULL NULL ph1 ph1b sarl_dff
a_d2 [ph1 nstart] d2 sarl_and
a_ff2 d2 clk NULL NULL ph2 ph2b sarl_dff
a_d3 [ph2 nstart] d3 sarl_and
a_ff3 d3 clk NULL NULL ph3 ph3b sarl_dff
a_d4 [ph3 nstart] d4 sarl_and
a_ff4 d4 clk NULL NULL ph4 ph4b sarl_dff
a_d5 [ph4 nstart] d5 sarl_and
a_ff5 d5 clk NULL NULL ph5 ph5b sarl_dff
a_d6 [ph5 nstart] d6 sarl_and
a_ff6 d6 clk NULL NULL ph6 ph6b sarl_dff
a_d7 [ph6 nstart] d7 sarl_and
a_ff7 d7 clk NULL NULL ph7 ph7b sarl_dff
a_d8 [ph7 nstart] d8 sarl_and
a_ff8 d8 clk NULL NULL ph8 ph8b sarl_dff
a_d9 [ph8 nstart] d9 sarl_and
a_ff9 d9 clk NULL NULL ph9 ph9b sarl_dff
a_d10 [ph9 nstart] d10 sarl_and
a_ff10 d10 clk NULL NULL ph10 ph10b sarl_dff
a_d11 [ph10 nstart] d11 sarl_and
a_ff11 d11 clk NULL NULL ph11 ph11b sarl_dff
a_d12 [ph11 nstart] d12 sarl_and
a_ff12 d12 clk NULL NULL ph12 ph12b sarl_dff
a_d13 [ph12 nstart] d13 sarl_and
a_ff13 d13 clk NULL NULL ph13 ph13b sarl_dff
a_d14 [ph13 nstart] d14 sarl_and
a_ff14 d14 clk NULL NULL ph14 ph14b sarl_dff
a_d15 [ph14 nstart] d15 sarl_and
a_ff15 d15 clk NULL NULL ph15 ph15b sarl_dff1
.ends sar_seq

* --- digital top ----------------------------------------------------
.subckt sar_ctrl clk start mode cmp samp drdy b9 b8 b7 b6 b5 b4 b3 b2 b1
+ b0 rel_256p hi_256p lo_256p rel_128p hi_128p lo_128p rel_64p hi_64p
+ lo_64p rel_32p hi_32p lo_32p rel_16p hi_16p lo_16p rel_8p hi_8p lo_8p
+ rel_4p hi_4p lo_4p rel_2p hi_2p lo_2p rel_1p hi_1p lo_1p rel_256n
+ hi_256n lo_256n rel_128n hi_128n lo_128n rel_64n hi_64n lo_64n rel_32n
+ hi_32n lo_32n rel_16n hi_16n lo_16n rel_8n hi_8n lo_8n rel_4n hi_4n
+ lo_4n rel_2n hi_2n lo_2n rel_1n hi_1n lo_1n
xseq clk start ph0 ph1 ph2 ph3 ph4 ph5 ph6 ph7 ph8 ph9 ph10 ph11 ph12 ph13 ph14 ph15 sar_seq
a_samp [ph0 ph1 ph2 ph3] samp sarl_or
a_drdy ph15 drdy_n sarl_inv
a_drdy2 drdy_n drdy sarl_inv
xs256 clk cmp mode ph4 ph13 q9 q9b rel_256p hi_256p lo_256p rel_256n hi_256n lo_256n sar_slice
xs128 clk cmp mode ph5 ph13 q8 q8b rel_128p hi_128p lo_128p rel_128n hi_128n lo_128n sar_slice
xs64 clk cmp mode ph6 ph13 q7 q7b rel_64p hi_64p lo_64p rel_64n hi_64n lo_64n sar_slice
xs32 clk cmp mode ph7 ph13 q6 q6b rel_32p hi_32p lo_32p rel_32n hi_32n lo_32n sar_slice
xs16 clk cmp mode ph8 ph13 q5 q5b rel_16p hi_16p lo_16p rel_16n hi_16n lo_16n sar_slice
xs8 clk cmp mode ph9 ph13 q4 q4b rel_8p hi_8p lo_8p rel_8n hi_8n lo_8n sar_slice
xs4 clk cmp mode ph10 ph13 q3 q3b rel_4p hi_4p lo_4p rel_4n hi_4n lo_4n sar_slice
xs2 clk cmp mode ph11 ph13 q2 q2b rel_2p hi_2p lo_2p rel_2n hi_2n lo_2n sar_slice
xs1 clk cmp mode ph12 ph13 q1 q1b rel_1p hi_1p lo_1p rel_1n hi_1n lo_1n sar_slice
xb0 clk cmp ph13 q0 q0b sar_bitreg
* 10-bit parallel output register (DR-0005: in scope, SPI deferred)
xo9 clk q9 ph14 b9 b9b sar_bitreg
xo8 clk q8 ph14 b8 b8b sar_bitreg
xo7 clk q7 ph14 b7 b7b sar_bitreg
xo6 clk q6 ph14 b6 b6b sar_bitreg
xo5 clk q5 ph14 b5 b5b sar_bitreg
xo4 clk q4 ph14 b4 b4b sar_bitreg
xo3 clk q3 ph14 b3 b3b sar_bitreg
xo2 clk q2 ph14 b2 b2b sar_bitreg
xo1 clk q1 ph14 b1 b1b sar_bitreg
xo0 clk q0 ph14 b0 b0b sar_bitreg
.ends sar_ctrl

* --- analog-boundary wrapper ----------------------------------------
* Presents the controller at the analog boundary with the port names
* design/cdac/cdac_array.sch uses, so the two connect directly. Only
* the NMOS-gate (active-high) half of each T-gate leg is routed out of
* the controller; `sar_tgate_drv` below makes the PMOS gate locally at
* the cell. Bridges are VECTOR instances on purpose: 54 scalar
* dac_bridges would put 54 separate sources in the analog matrix.
.subckt sar_ctrl_a clk start mode cmp samp drdy c9 c8 c7 c6 c5 c4 c3 c2 c1
+ c0 rel_n_256p sel_hi_n_256p sel_lo_n_256p rel_n_128p sel_hi_n_128p
+ sel_lo_n_128p rel_n_64p sel_hi_n_64p sel_lo_n_64p rel_n_32p sel_hi_n_32p
+ sel_lo_n_32p rel_n_16p sel_hi_n_16p sel_lo_n_16p rel_n_8p sel_hi_n_8p
+ sel_lo_n_8p rel_n_4p sel_hi_n_4p sel_lo_n_4p rel_n_2p sel_hi_n_2p
+ sel_lo_n_2p rel_n_1p sel_hi_n_1p sel_lo_n_1p rel_n_256n sel_hi_n_256n
+ sel_lo_n_256n rel_n_128n sel_hi_n_128n sel_lo_n_128n rel_n_64n
+ sel_hi_n_64n sel_lo_n_64n rel_n_32n sel_hi_n_32n sel_lo_n_32n rel_n_16n
+ sel_hi_n_16n sel_lo_n_16n rel_n_8n sel_hi_n_8n sel_lo_n_8n rel_n_4n
+ sel_hi_n_4n sel_lo_n_4n rel_n_2n sel_hi_n_2n sel_lo_n_2n rel_n_1n
+ sel_hi_n_1n sel_lo_n_1n
a_in [clk start mode cmp] [dclk dstart dmode dcmp] sarl_adc
xctrl dclk dstart dmode dcmp dsamp ddrdy db9 db8 db7 db6 db5 db4 db3 db2
+ db1 db0 drel_256p dhi_256p dlo_256p drel_128p dhi_128p dlo_128p drel_64p
+ dhi_64p dlo_64p drel_32p dhi_32p dlo_32p drel_16p dhi_16p dlo_16p
+ drel_8p dhi_8p dlo_8p drel_4p dhi_4p dlo_4p drel_2p dhi_2p dlo_2p
+ drel_1p dhi_1p dlo_1p drel_256n dhi_256n dlo_256n drel_128n dhi_128n
+ dlo_128n drel_64n dhi_64n dlo_64n drel_32n dhi_32n dlo_32n drel_16n
+ dhi_16n dlo_16n drel_8n dhi_8n dlo_8n drel_4n dhi_4n dlo_4n drel_2n
+ dhi_2n dlo_2n drel_1n dhi_1n dlo_1n sar_ctrl
a_dout [dsamp ddrdy db9 db8 db7 db6 db5 db4 db3 db2 db1 db0]
+ [samp drdy c9 c8 c7 c6 c5 c4 c3 c2 c1 c0] sarl_dac
a_gn [drel_256p dhi_256p dlo_256p drel_128p dhi_128p dlo_128p drel_64p dhi_64p dlo_64p drel_32p dhi_32p dlo_32p drel_16p dhi_16p dlo_16p drel_8p dhi_8p dlo_8p drel_4p dhi_4p dlo_4p drel_2p dhi_2p dlo_2p drel_1p dhi_1p dlo_1p drel_256n dhi_256n dlo_256n drel_128n dhi_128n dlo_128n drel_64n dhi_64n dlo_64n drel_32n dhi_32n dlo_32n drel_16n dhi_16n dlo_16n drel_8n dhi_8n dlo_8n drel_4n dhi_4n dlo_4n drel_2n dhi_2n dlo_2n drel_1n dhi_1n dlo_1n]
+ [rel_n_256p sel_hi_n_256p sel_lo_n_256p rel_n_128p sel_hi_n_128p sel_lo_n_128p rel_n_64p sel_hi_n_64p sel_lo_n_64p rel_n_32p sel_hi_n_32p sel_lo_n_32p rel_n_16p sel_hi_n_16p sel_lo_n_16p rel_n_8p sel_hi_n_8p sel_lo_n_8p rel_n_4p sel_hi_n_4p sel_lo_n_4p rel_n_2p sel_hi_n_2p sel_lo_n_2p rel_n_1p sel_hi_n_1p sel_lo_n_1p rel_n_256n sel_hi_n_256n sel_lo_n_256n rel_n_128n sel_hi_n_128n sel_lo_n_128n rel_n_64n sel_hi_n_64n sel_lo_n_64n rel_n_32n sel_hi_n_32n sel_lo_n_32n rel_n_16n sel_hi_n_16n sel_lo_n_16n rel_n_8n sel_hi_n_8n sel_lo_n_8n rel_n_4n sel_hi_n_4n sel_lo_n_4n rel_n_2n sel_hi_n_2n sel_lo_n_2n rel_n_1n sel_hi_n_1n sel_lo_n_1n] sarl_dac
.ends sar_ctrl_a

* --- local T-gate driver -------------------------------------------
* One per T-gate leg, placed with the CDAC cell (#15/#16), not with
* the controller: `gn` is the controller's active-high control and
* `gp` the complementary PMOS gate. Modelled as an ideal inverter at
* rung 1; at rung 3 it is one standard-cell inverter.
.subckt sar_tgate_drv gn gp
a_adc gn dgn sarl_adc
a_inv dgn dgp sarl_inv
a_dac dgp gp sarl_dac
.ends sar_tgate_drv

* Bridge models. Thresholds and rails track the PVT point's supply, so
* the supply axis of the corner grid actually moves something in this
* otherwise PVT-invariant model.
.model sarl_adc adc_bridge(in_low={vdd_val*0.4} in_high={vdd_val*0.6})
.model sarl_dac dac_bridge(out_low=0 out_high={vdd_val}
+ out_undef={vdd_val/2} t_rise=0.3n t_fall=0.3n)
